US05594021
N,N-diisoproplyethylamine (222 μl, 128 mmol) was added to a solution of N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide (300 mg, 1.16 mmol) in methylene chloride (5 ml), and the mixture was stirred at room temperature for 15 min. The mixture was then cooled to 0° C. and 2-(trimethylsilyl)ethoxy methyl chloride (SEM chloride) (226 μl, 1.28 mmol) was added dropwise via syringe, and the resultant yellow solution was stirred at room temperature for 5 hours. Evaporation of solvents left an oil which was extracted into ethyl acetate, washed with water and brine solution and dried over magnesium sulfate. Flash chromatography of the residue using 10% ethyl acetate/hexanes yielded 321 mg 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide as a clear colorless oil which solidified into a white solid upon standing (71% yield).

reactant | N,N-diisoproplyethylamine | 128 mmol, 222 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide | 1.16 mmol, 300 mg | CC1=NOC(=C1C)NS(=O)(=O)C1=CSC=C1 | C9H10N2O3S2
reactant | 2-(trimethylsilyl)ethoxy methyl chloride | 1.28 mmol, 226 μl | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)thiophene-3-sulfonamide | 321 mg, 71% yield | C[Si](CCOCC=1SC=CC1S(=O)(=O)NC1=C(C(=NO1)C)C)(C)C | C15H24N2O4S2Si
